* Arm A oscillator 3: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 3: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 8.266670e-17
Cg1 nand_Y 0 8.266670e-17
Cc0 EN i1_A 4.113780e-17
Rn1_1 i1_Y i2_A 19.9080
Cg2 i2_A 0 5.776040e-17
Cg3 i1_Y 0 5.776040e-17
Cc1 EN i2_A 7.327200e-17
Rn10_2 i10_Y i11_A 30.6759
Cg4 i11_A 0 1.922410e-16
Cg5 i10_Y 0 1.922410e-16
Cc2 i11_A i10_A 6.653020e-17
Cx0 i11_A 0 4.033180e-17
Cx1 i11_A 0 9.379760e-18
Rn11_3 i11_Y i12_A 20.8277
Cg6 i12_A 0 6.124860e-17
Cg7 i11_Y 0 6.124860e-17
Cc3 i12_A i13_A 6.682570e-17
Cc4 i12_A i7_A 6.404270e-17
Cc5 i12_A i8_A 8.024700e-17
Rn12_4 i12_Y i13_A 21.2563
Cg8 i13_A 0 8.918110e-17
Cg9 i12_Y 0 8.918110e-17
Cc6 i13_A i7_A 6.047900e-17
Cc7 i13_A i8_A 1.009520e-16
Rn13_5 i13_Y i14_A 30.2205
Cg10 i14_A 0 1.162040e-16
Cg11 i13_Y 0 1.162040e-16
Cc8 i14_A i15_A 2.354100e-17
Cc9 i14_A i8_A 7.418750e-17
Cx2 i14_A 0 1.240100e-16
Cx3 i14_A 0 1.274460e-16
Cx4 i14_A 0 1.407490e-17
Rn14_6 i14_Y i15_A 21.2563
Cg12 i15_A 0 1.330250e-16
Cg13 i14_Y 0 1.330250e-16
Cx5 i15_A 0 6.594470e-17
Rn15_7 i15_Y s1491_12 22.2196
Rn15_8 s1491_12 i16_A 10.3580
Rn15_9 s1491_12 buf_A 9.3000
Cg14 buf_A 0 0.000000e+00
Cg15 i16_A 0 6.663050e-17
Cg16 i15_Y 0 2.313210e-16
Cg17 s1491_12 0 2.979520e-16
Cc10 i16_A i17_A 1.795390e-17
Cx6 s1491_12 0 1.513330e-16
Cx7 s1491_12 0 0.000000e+00
Cx8 s1491_12 0 2.026770e-16
Rn16_10 i16_Y i17_A 32.9884
Cg18 i17_A 0 3.440880e-16
Cg19 i16_Y 0 3.440880e-16
Cc11 i17_A i20_A 1.965170e-17
Cx9 i17_A 0 0.000000e+00
Cx10 i17_A 0 1.506250e-16
Cx11 i17_A 0 5.542450e-17
Rn17_11 i17_Y i18_A 32.6491
Cg20 i18_A 0 1.915620e-16
Cg21 i17_Y 0 1.915620e-16
Cc12 i18_A i19_A 1.298680e-16
Cx12 i18_A 0 9.293140e-17
Cx13 i18_A 0 7.668790e-17
Cx14 i18_A 0 1.728390e-16
Rn18_12 i18_Y i19_A 30.2652
Cg22 i19_A 0 1.055820e-16
Cg23 i18_Y 0 1.055820e-16
Cc13 i19_A i20_A 6.894900e-17
Cx15 i19_A 0 1.264390e-16
Rn19_13 i19_Y i20_A 20.6982
Cg24 i20_A 0 9.968100e-17
Cg25 i19_Y 0 9.968100e-17
Cc14 i20_A i21_A 7.433980e-17
Rn2_14 i2_Y i3_A 21.9750
Cg26 i3_A 0 1.568910e-16
Cg27 i2_Y 0 1.568910e-16
Cc15 i3_A i4_A 1.181850e-16
Cc16 i3_A i5_A 3.286860e-17
Cc17 EN i3_A 6.801890e-17
Rn20_15 i20_Y i21_A 21.1313
Cg28 i21_A 0 1.280840e-16
Cg29 i20_Y 0 1.280840e-16
Cc18 i21_A i22_A 4.197000e-17
Rn21_16 i21_Y i22_A 21.1313
Cg30 i22_A 0 1.236110e-16
Cg31 i21_Y 0 1.236110e-16
Cc19 i22_A i23_A 1.876180e-17
Rn22_17 i22_Y i23_A 32.2116
Cg32 i23_A 0 3.011640e-16
Cg33 i22_Y 0 3.011640e-16
Cx16 i23_A 0 6.051610e-18
Cx17 i23_A 0 1.481890e-16
Cx18 i23_A 0 1.377430e-17
Cx19 i23_A 0 0.000000e+00
Rn23_18 i23_Y i24_A 19.4973
Cg34 i24_A 0 1.989260e-17
Cg35 i23_Y 0 1.989260e-17
Cc20 i24_A i25_A 4.116230e-17
Cx20 i24_A 0 5.337830e-17
Rn24_19 i24_Y i25_A 30.6759
Cg36 i25_A 0 1.797950e-16
Cg37 i24_Y 0 1.797950e-16
Cc21 i25_A i26_A 2.808530e-17
Cx21 i25_A 0 6.518500e-17
Cx22 i25_A 0 1.484010e-17
Cx23 i25_A 0 0.000000e+00
Rn25_20 i25_Y i26_A 20.8277
Cg38 i26_A 0 1.226000e-16
Cg39 i25_Y 0 1.226000e-16
Cc22 i26_A i27_A 1.535700e-17
Rn26_21 i26_Y i27_A 30.1580
Cg40 i27_A 0 1.226460e-16
Cg41 i26_Y 0 1.226460e-16
Cc23 i27_A i28_A 2.808530e-17
Cc24 i27_A i29_A 1.377430e-17
Cx24 i27_A 0 1.506180e-16
Cx25 i27_A 0 0.000000e+00
Rn27_22 i27_Y i28_A 20.8277
Cg42 i28_A 0 1.224060e-16
Cg43 i27_Y 0 1.224060e-16
Cc25 i28_A i29_A 4.794490e-17
Rn28_23 i28_Y i29_A 21.5866
Cg44 i29_A 0 1.915690e-16
Cg45 i28_Y 0 1.915690e-16
Cc26 i29_A i30_A 1.673050e-17
Rn29_24 i29_Y i30_A 30.2652
Cg46 i30_A 0 1.676500e-16
Cg47 i29_Y 0 1.676500e-16
Cx26 i30_A 0 4.231220e-17
Cx27 i30_A 0 0.000000e+00
Rn3_25 i3_Y i4_A 20.8277
Cg48 i4_A 0 7.193820e-17
Cg49 i3_Y 0 7.193820e-17
Cc27 EN i4_A 1.357470e-16
Rn30_26 i30_Y nand_B 19.3411
Cg50 nand_B 0 4.409850e-17
Cg51 i30_Y 0 4.409850e-17
Rn4_27 i4_Y i5_A 33.3723
Cg52 i5_A 0 3.137920e-16
Cg53 i4_Y 0 3.137920e-16
Cc28 i5_A i6_A 9.268260e-17
Cc29 i5_A i9_A 5.110060e-17
Cx28 i5_A 0 1.955620e-16
Cx29 i5_A 0 0.000000e+00
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 2.293850e-17
Cg55 i5_Y 0 2.293850e-17
Cc30 i6_A i9_A 4.869190e-17
Rn6_29 i6_Y i7_A 33.1714
Cg56 i7_A 0 3.619830e-16
Cg57 i6_Y 0 3.619830e-16
Cc31 i7_A i10_A 7.664400e-17
Cc32 i7_A i8_A 7.487540e-18
Cc33 i7_A i9_A 3.286860e-17
Cx30 i7_A 0 8.008060e-17
Rn7_30 i7_Y i8_A 25.8991
Cg58 i8_A 0 4.648460e-16
Cg59 i7_Y 0 4.648460e-16
Cc34 i8_A i9_A 1.402400e-17
Rn8_31 i8_Y i9_A 32.7116
Cg60 i9_A 0 2.612810e-16
Cg61 i8_Y 0 2.612810e-16
Cc35 i9_A i10_A 2.808530e-17
Cx31 i9_A 0 5.108220e-17
Cx32 i9_A 0 3.794670e-17
Rn9_32 i9_Y i10_A 32.6491
Cg62 i10_A 0 2.808690e-16
Cg63 i9_Y 0 2.808690e-16
Cx33 i10_A 0 1.247040e-16
Cx34 i10_A 0 0.000000e+00
Cx35 i10_A 0 1.407490e-17
Rout_33 buf_X s1516_10 19.3357
Rout_34 s1516_10 s1516_14 48.9821
Cg64 buf_X 0 5.326440e-17
Cg65 s1516_14 0 3.412760e-15
Cg66 s1516_10 0 3.414400e-15
Cx36 s1516_14 0 7.578450e-16
Cx37 s1516_14 0 3.483310e-17
Cx38 s1516_14 0 1.042880e-16
Cx39 s1516_14 0 5.837030e-17
Cx40 s1516_10 0 2.790920e-17
Cx41 s1516_10 0 0.000000e+00
Cx42 s1516_14 0 6.263290e-18
Cx43 s1516_14 0 1.063830e-15

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
